US04663344
A solution of p-methoxybenzylmercaptan (20.0 g, 0.13 mol) and sodium methoxide (7.0 g) in N,N-dimethylformamide (55 ml) was added dropwise with stirring under a nitrogen atmosphere to a solution of 4-chloro-3-cyanobenzotrifluoride (26.7 g, 0.13 mol) in N,N-dimethylformamide (35 ml) cooled in an ice bath. After stirring for 2 hours at room temperature, the reaction mixture was poured into ice-water and extracted several times with dichloromethane. The combined organic extracts were dried (sodium sulfate) and evaporated to afford in essentially quantitative yield, 2-(4'-methoxybenzylthio)-5-trifluoromethylbenzonitrile as an oil; 60 MHZ NMR spectrum in chloroform-d was in accord with the desired structure. A mixture of the crude product in ethanol (110 ml) and 20% aqueous sodium hydroxide (450 ml) was heated at reflux temperature with stirring for 24 hours. The cooled hydrolysis mixture was concentrated, the resulting solid filtered, and washed with ether. The mother liquors were partitioned and the ethereal layer evaporated. The filtered solid was dissolved in methanol and added to the residue from the mother liquor work-up. The solution was evaporated, the resulting oil suspended in water and the aqueous mixture acidified with 6N hydrochloric acid. The precipitated solid was filtered and dried in vacuo over phosphorous pentoxide; yield 41 g (92%).

reactant | p-methoxybenzylmercaptan | 0.13 mol, 20.0 g | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | sodium methoxide | 7.0 g | C[O-].[Na+]
reactant | 4-chloro-3-cyanobenzotrifluoride | 0.13 mol, 26.7 g | ClC1=C(C=C(C=C1)C(F)(F)F)C#N | C8H3ClF3N
solvent | N,N-dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 2-(4'-methoxybenzylthio)-5-trifluoromethylbenzonitrile | quantitative yield | COC1=CC=C(CSC2=C(C#N)C=C(C=C2)C(F)(F)F)C=C1 | C16H12F3NOS
